US07915281B2
A suspension of 4-chloro-3-nitroquinoline (2.29 g, 11.0 mmol) and (5-phenylisoxazol-3-yl)methylamine (1.92 g, 11.0 mmol) in dichloromethane (200 mL) was cooled to 0° C., and triethylamine (2.30 mL, 16.5 mmol) was added. The resultant solution was allowed to warm to room temperature slowly and stirred overnight. The volatiles were removed under reduced pressure, and the residue was purified by flash column chromatography on silica gel (eluting with 3% to 8% methanol in dichloromethane) to provide 2.90 g of 3-nitro-N-[(5-phenylisoxazol-3-yl)methyl]quinolin-4-amine.

reactant | 4-chloro-3-nitroquinoline | 11.0 mmol, 2.29 g | ClC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-] | C9H5ClN2O2
reactant | (5-phenylisoxazol-3-yl)methylamine | 11.0 mmol, 1.92 g | C1(=CC=CC=C1)C1=CC(=NO1)CN | C10H10N2O
reactant | triethylamine | 16.5 mmol, 2.30 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 3-nitro-N-[(5-phenylisoxazol-3-yl)methyl]quinolin-4-amine | 2.90 g | [N+](=O)([O-])C=1C=NC2=CC=CC=C2C1NCC1=NOC(=C1)C1=CC=CC=C1 | C19H14N4O3
